US07595398B2
Thiourea (0.31 g, 4.1 mmol) and sodium acetate (0.44 g, 5.3 mmol) were combined in 30 mL of dry ethanol. To this suspension was added 2-bromo-1-(3-nitro-phenyl)-ethanone (1.0 g, 4.1 mmol). Reaction mixture was stirred at room temperature overnight. Reaction mixture was evaporated to dryness to yield 4-(3-nitro-phenyl)-thiazol-2-ylamine, which was used in the next step without any further purification. MS: 222.0 (M+H+).

reactant | Thiourea | 4.1 mmol, 0.31 g | NC(=S)N | CH4N2S
reactant | sodium acetate | 5.3 mmol, 0.44 g | C(C)(=O)[O-].[Na+]
reactant | 2-bromo-1-(3-nitro-phenyl)-ethanone | 4.1 mmol, 1.0 g | BrCC(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C8H6BrNO3
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 4-(3-nitro-phenyl)-thiazol-2-ylamine | [N+](=O)([O-])C=1C=C(C=CC1)C=1N=C(SC1)N | C9H7N3O2S
